US04812164
using 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-5-fluoro-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone and chlorodimethyl ether with sodium hydride in dimethylformamide there is obtained 1-(4-chloro-2-fluoro-5 -methoxymethoxy-phenyl)-5-fluoro-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone, 1H-NMR CDCl3, 400 MHz): 7.34 ppm (d,1H), 7.13 ppm (d,1H), 5.22 ppm (q,2H), 3.98 ppm (s,3H), 3.52 ppm (s,3H);

reactant | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-5-fluoro-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1O)N1C(=NC(=C(C1=O)F)C(C(F)(F)F)(F)F)OC)F | C13H6ClF7N2O3
reactant | chlorodimethyl ether | COCCl | C2H5ClO
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(4-chloro-2-fluoro-5 -methoxymethoxy-phenyl)-5-fluoro-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1OCOC)N1C(=NC(=C(C1=O)F)C(C(F)(F)F)(F)F)OC)F | C15H10ClF7N2O4
